US08629152B2
Lyophilized N-[4-[2-(2-amino-4,7-dihydro-4-oxo-1H-pyrrolo[2,3-d]pyrimidin-5-yl)ethyl]benzoyl]-L-glutamic acid disodium salt
2.5 grams of N-[4-[2-(2-amino-4,7-dihydro-4-oxo-1H-pyrrolo[2,3-d]pyrimidin-5-yl)ethyl]benzoyl]-L-glutamic acid (purity 99.6% by HPLC) were dissolved in 0.5 L of distilled water with the addition of 5.849 mL of a 2.0M standard solution of sodium hydroxide. The pH of the solution was adjusted to 7.14 by adding a diluted solution of sodium hydroxide in water and a suspension of N-[4-[2-(2-amino-4,7-dihydro-4-oxo-1H-pyrrolo[2,3-d]pyrimidin-5-yl)ethyl]benzoyl]-L-glutamic acid in the same solvent. The obtained solution was dried in a freeze-drier affording the title compound as a white solid (2.8 g, purity 99.6% area by HPLC). Acidimetric titrations of the final product confirmed the absence of residual sodium hydroxide and pemetrexed diacid.

reactant | N-[4-[2-(2-amino-4,7-dihydro-4-oxo-1H-pyrrolo[2,3-d]pyrimidin-5-yl)ethyl]benzoyl]-L-glutamic acid | 2.5 grams | NC1=NC(C2=C(N1)NC=C2CCC2=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C2)=O | C20H21N5O6
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 0.5 L | O | H2O
product | N-[4-[2-(2-amino-4,7-dihydro-4-oxo-1H-pyrrolo[2,3-d]pyrimidin-5-yl)ethyl]benzoyl]-L-glutamic acid disodium salt | 2.8 g | [Na+].[Na+].NC1=NC(C2=C(N1)NC=C2CCC2=CC=C(C(=O)N[C@@H](CCC(=O)[O-])C(=O)[O-])C=C2)=O | InChI=1S/C20H21N5O6.2Na/c21-20-24-16-15(18(29)25-20)12(9-22-16)6-3-10-1-4-11(5-2-10)17(28)23-13(19(30)31)7-8-14(26)27;;/h1-2,4-5,9,13H,3,6-8H2,(H,23,28)(H,26,27)(H,30,31)(H4,21,22,24,25,29);;/q;2*+1/p-2/t13-;;/m0../s1
